US04362738
N-{2-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)benzoyloxy]-ethyl}-N-{2-[2-[(2,6-dichlorophenyl)-amino]phenylacetoxy]-ethyl}-n-propylamine
This compound was prepared from sodium 2-[(2,6-dichlorophenyl)-amino]-phenyl-acetate and N-{2-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyloxy]-ethyl}N-(2-chloroethyl)-n-propylamine analogous to Example 8. Oil.

reactant | sodium 2-[(2,6-dichlorophenyl)-amino]-phenyl-acetate | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)[O-].[Na+]
reactant | N-{2-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyloxy]-ethyl}N-(2-chloroethyl)-n-propylamine | NC1=C(C=C(C(=O)OCCN(CCCl)CCC)C=C1CN(CC)C1CCCCC1)Br | C23H37BrClN3O2
product | N-{2-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)benzoyloxy]-ethyl}-N-{2-[2-[(2,6-dichlorophenyl)-amino]phenylacetoxy]-ethyl}-n-propylamine | NC1=C(C=C(C(=O)OCCN(CCOC(CC2=C(C=CC=C2)NC2=C(C=CC=C2Cl)Cl)=O)CCC)C=C1CN(CC)C1CCCCC1)Br | C37H47BrCl2N4O4
